US04241052
3.0 g of L-arabinose, 2.7 g of (thiophen-2-yl-methyl)amine and 2.5 of 2-chloroethyl isocyanate are treated in the same manner as described in Example 31-(1). 4.1 g of 1-(2-chloroethyl)-3-(thiopen-2-yl-methyl)-3-(L-arabinopyranosyl)urea are thereby obtained as colorless powder.

reactant | L-arabinose | 3.0 g | O=C[C@H](O)[C@@H](O)[C@@H](O)CO | C5H10O5
reactant | (thiophen-2-yl-methyl)amine | 2.7 g | S1C(=CC=C1)CN | C5H7NS
reactant | 2-chloroethyl isocyanate | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-(thiopen-2-yl-methyl)-3-(L-arabinopyranosyl)urea | 4.1 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC=1SC=CC1 | C13H19ClN2O5S
